### PR TITLE
[Merged by Bors] - feat(RingTheory/AdicCompletion): add algebra instance

### PR DESCRIPTION
**Pull request by chrisflav**
Adds the algebra instance on the `I`-adic completion of a ring `R`. Also provides the `AdicCompletion I R`-module instance on `AdicCompletion I M` for every `R`-module `M`. 

Co-authored-by: Judith Ludwig <ludwig@mathi.uni-heidelberg.de>

---

- [x] depends on: #12516

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AdicCompletion/Algebra.lean [hunk 1]
```diff
@@ -0,0 +1,219 @@
...
+@[local simp]
+theorem transitionMap_map_one {m n : ℕ} (hmn : m ≤ n) : transitionMap I R hmn 1 = 1 :=
+  rfl
+
+@[local simp]
+theorem transitionMap_map_mul {m n : ℕ} (hmn : m ≤ n) (x y : R ⧸ (I ^ n • ⊤ : Ideal R)) :
+    transitionMap I R hmn (x * y) = transitionMap I R hmn x * transitionMap I R hmn y := by
+  refine Quotient.inductionOn' x (fun x ↦ ?_)
+  refine Quotient.inductionOn' y (fun y ↦ ?_)
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/AdicCompletion/Algebra.lean:48]:
```suggestion
theorem transitionMap_map_mul {m n : ℕ} (hmn : m ≤ n) (x y : R ⧸ (I ^ n • ⊤ : Ideal R)) :
    transitionMap I R hmn (x * y) = transitionMap I R hmn x * transitionMap I R hmn y :=
  Quotient.inductionOn₂' x y (fun _ _ ↦ rfl)
```
`Quotient.inductionOn₂'` is designed for these situations.

File: Mathlib/RingTheory/AdicCompletion/Algebra.lean [hunk 2]
```diff
@@ -0,0 +1,219 @@
...
+/-- `AdicCompletion.transitionMap` as an algebra homomorphism. -/
+def transitionMapₐ {m n : ℕ} (hmn : m ≤ n) :
+    R ⧸ (I ^ n • ⊤ : Ideal R) →ₐ[R] R ⧸ (I ^ m • ⊤ : Ideal R) :=
+  AlgHom.ofLinearMap (transitionMap I R hmn) rfl (transitionMap_map_mul I hmn)
+
+/-- `AdicCompletion I R` is an `R`-subalgebra of `∀ n, R ⧸ (I ^ n • ⊤ : Ideal R)`. -/
+def subalgebra : Subalgebra R (∀ n, R ⧸ (I ^ n • ⊤ : Ideal R)) :=
+  Submodule.toSubalgebra (submodule I R)
+    (fun {m n} _ ↦ by simp)
+    (fun x y hx hy {m n} hmn ↦ by simp [hx hmn, hy hmn])
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/AdicCompletion/Algebra.lean:59]:
```suggestion
def subalgebra : Subalgebra R (∀ n, R ⧸ (I ^ n • ⊤ : Ideal R)) :=
  Submodule.toSubalgebra (submodule I R) (fun _ ↦ by simp)
    (fun x y hx hy m n hmn ↦ by simp [hx hmn, hy hmn])
```

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 3]
```diff
@@ -280,7 +280,8 @@ theorem val_add (n : ℕ) (f g : AdicCompletion I M) : (f + g).val n = f.val n +
 theorem val_sub (n : ℕ) (f g : AdicCompletion I M) : (f - g).val n = f.val n - g.val n :=
   rfl
 
-@[simp]
+/- No `simp` attribute, since it cases `simp` unification timeouts when considering
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:283]:
```suggestion
/- No `simp` attribute, since it causes `simp` unification timeouts when considering
```

File: Mathlib/RingTheory/AdicCompletion/Algebra.lean [hunk 4]
```diff
@@ -0,0 +1,219 @@
...
+    simp only [smul_eval, _root_.map_zero, zero_smul, val_zero]
+
+instance : IsScalarTower R (AdicCompletion I R) (AdicCompletion I M) where
+  smul_assoc r s x := by
+    ext n
+    rw [smul_eval, val_smul, val_smul, smul_eval, smul_assoc]
+
+/-- A priori `AdicCompletion I R` has two `AdicCompletion I R`-module instances.
+Both agree definitionally. -/
+theorem smul_eq_mul (r s : AdicCompletion I R) : r • s = r * s :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/AdicCompletion/Algebra.lean:218]: We usually write this kind of test as examples (we don't want them in the docs). Something like
```lean
example : module I = @Algebra.toModule (AdicCompletion I R)
  (AdicCompletion I R) _ _ (Algebra.id _) := rfl
```
Two comments:
* are these the two instantes you want to compare? It's better to write them like this than using `•` (we check all the structures at once).
* `rfl` works, but the real test is `by with_reducible rfl` which *does not* work (the difference is that `by with_reducible rfl` does not unfold definitions that are not marked `reducible)`. I am not 100% sure to understand all the subtleties, but this probably means that for Lean those are not exactly the same. @eric-wieser  will this be a problem?

**Comment by chrisflav** [comment]
Thanks for the suggestions @riccardobrasca, I adapted them in the latest commit.

File: Mathlib/RingTheory/AdicCompletion/Algebra.lean [hunk 5]
```diff
@@ -0,0 +1,217 @@
...
+
+theorem smul_mk {m n : ℕ} (hmn : m ≤ n) (r : AdicCauchySequence I R)
+    (x : AdicCauchySequence I M) :
+    r.val n • Submodule.Quotient.mk (p := (I ^ m • ⊤ : Submodule R M)) (x.val n) =
+      r.val m • Submodule.Quotient.mk (p := (I ^ m • ⊤ : Submodule R M)) (x.val m) := by
+  rw [← Submodule.Quotient.mk_smul, ← Module.Quotient.mk_smul_mk,
+    AdicCauchySequence.mk_eq_mk hmn, Ideal.mk_eq_mk I hmn, Module.Quotient.mk_smul_mk,
+    Submodule.Quotient.mk_smul]
+
+/-- Scalar multiplication of `R ⧸ (I • ⊤)` on `M ⧸ (I • ⊤)`. Used to have good
```
Comment (eric-wieser) [inline Mathlib/RingTheory/AdicCompletion/Algebra.lean:141]: Do you mean "In the past, it had", or "Designed to have"

Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Algebra.lean:141]: Ah right, it is not very clear as written. I want to say that we introduce this slightly weird `SMul` instance of `R ⧸ (I • ⊤)` on `M ⧸ (I • ⊤)` (instead of using the already existing `R ⧸ I`-module instance) to have good definitional behaviour.

Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Algebra.lean:141]: So maybe "This is used to" instead of "Used to"?

File: Mathlib/RingTheory/AdicCompletion/Algebra.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/AdicCompletion/Algebra.lean]: @eric-wieser do you think this is OK?

Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Algebra.lean]: I don't know if it helps, but `by with_reducible_and_instances rfl` works. I just updated the PR.

Comment (riccardobrasca) [reply Mathlib/RingTheory/AdicCompletion/Algebra.lean]: Ah, I see, that's OK I think.

**Comment by riccardobrasca** [comment]
!bench

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by chrisflav** [comment]
Thanks for the reviews!
